US08541411B2
Preparation of 2-methyl-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-4-(1,3-oxazol-2-yl)-1H-benzimidazole
A mixture of 4-bromo-2-methyl-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazole (150 mg, 0.320 mmol), prepared as described in Example 63, 2-(tributylstannanyl)-1,3-oxazole (195 mg, 0.545 mmol) and Pd(Ph3P)2Cl2 (11.27 mg, 0.016 mmol) in Tetrahydrofuran (THF) (5 mL) was stirred at reflux temperature for 19 h. Conversion to the desired product is observed by LC/MS analysis, but the majority of the mixture is still SM. The reaction mixture was transferred in a microwavable vial and irradiated in a microwave reactor at 120° C. for 90 min. The reaction mixture was diluted with EtOAc and CHCl3, washed with aq sat sol NH4Cl, brine, dried over Na2SO4 and the solvent was evaporated under reduced pressure. The residue was purified on a silica gel column (ISCO, 0-70% EtOAc in Hexanes—no product peak observed—then 0-10% MeOH in CH2Cl2) to give desired product (94.8 mg, 0.204 mmol, 63.5% yield) as a yellow powder. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.87 (s, 1H), 7.71 (d, J=2.27 Hz, 1H), 7.58 (d, J=7.83 Hz, 1H), 7.37 (s, 1H), 7.11 (t, J=7.83 Hz, 1H), 6.66 (d, J=2.27 Hz, 1H), 6.47 (d, J=7.83 Hz, 1H), 5.31 (s, 2H), 3.81-3.92 (m, 4H), 3.11-3.24 (m, 4H), 2.58 (s, 3H), 2.56 (s, 3H). MS (ES+) m/e 457.1 [M+H]+

reactant | 4-bromo-2-methyl-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-1H-benzimidazole | 0.320 mmol, 150 mg | BrC1=CC(=CC=2N(C(=NC21)C)CC2=C(C(=CC=C2)C(F)(F)F)C)N2CCOCC2 | C21H21BrF3N3O
reactant | 2-(tributylstannanyl)-1,3-oxazole | 0.545 mmol, 195 mg | C(CCC)[Sn](C=1OC=CN1)(CCCC)CCCC
solvent | Tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | Pd(Ph3P)2Cl2 | 0.016 mmol, 11.27 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-methyl-1-{[2-methyl-3-(trifluoromethyl)phenyl]methyl}-6-(4-morpholinyl)-4-(1,3-oxazol-2-yl)-1H-benzimidazole | CC1=NC2=C(N1CC1=C(C(=CC=C1)C(F)(F)F)C)C=C(C=C2C=2OC=CN2)N2CCOCC2 | C24H23F3N4O2
